US09107916B2
B. 2-[5-[(2-fluoro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2-fluoro-4-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.36 (3H, s), 5.26 (2H, s), 5.80 (1H, d, J=2.0 Hz), 6.93 (1H, d, J=11.2 Hz), 6.98 (1H, d, J=8.0 Hz), 7.31-7.35 (1H, m), 7.38 (1H, dd, J=1.2 Hz, 4.8 Hz), 7.57 (1H, d, J=1.6 Hz), 8.01 (1H, s), 8.69 (1H, d, J=4.8 Hz). [M+H] Calc'd for C17H13FN4O, 309. Found, 309.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2-fluoro-4-methylphenyl)methanol | FC1=C(C=CC(=C1)C)CO | C8H9FO
product | 2-[5-[(2-fluoro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1=C(C=CC(=C1)C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C17H13FN4O
